US06211215B1
In substantially the same manner as in Working Example 146, 5-(2-thienyl)-2-thiazolylmethanol was mesylated and then reacted with 1-[3-(4-hydroxyphenyl)propyl]imidazole to obtain 2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-(2-thienyl)thiazole. The yield was 66%. Recrystallization from ethyl acetate-hexane gave orange prisms, mp 82-84° C.

reactant | 5-(2-thienyl)-2-thiazolylmethanol | S1C(=CC=C1)C1=CN=C(S1)CO | C8H7NOS2
reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
product | 2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-(2-thienyl)thiazole | yield was 66% | N1(C=NC=C1)CCCC1=CC=C(OCC=2SC(=CN2)C=2SC=CC2)C=C1 | C20H19N3OS2
